US04472547
N-(1-Acetyl-2,2,6,6-tetramethylpiperidin-4-yl)-epsilon-caprolactam
A solution of 50.5 g (0.2 mole) of N-(2,2,6,6-tetramethylpiperidin-4-yl)-epsilon-caprolactam, prepared in Example 1, in 102 g of acetic anhydride with 0.2 g of sulfuric acid catalyst is heated for four hours at 120° C. At the end of this period the excess acetic anhydride is removed in vacuo. The residue is then dissolved in 200 ml of methylene chloride, washed thrice with 100 ml portions of water, then with 10% aqueous sodium bicarbonate and finally dried over anhydrous magnesium sulfate. The solvent is allowed to evaporate to give a crude product which when recrystallized from toluene:hexane (1:3) yields 38.4 g of white solid melting at 104°-108° C.

reactant | N-(2,2,6,6-tetramethylpiperidin-4-yl)-epsilon-caprolactam | 0.2 mole, 50.5 g | CC1(NC(CC(C1)N1C(CCCCC1)=O)(C)C)C | C15H28N2O
reactant | acetic anhydride | 102 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 0.2 g | S(O)(O)(=O)=O | H2O4S
product | N-(1-Acetyl-2,2,6,6-tetramethylpiperidin-4-yl)-epsilon-caprolactam | 38.4 g | C(C)(=O)N1C(CC(CC1(C)C)N1C(CCCCC1)=O)(C)C | C17H30N2O2
